US06800641B2
[7-Amino-8-methyl-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate
[(2R)-8-Formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methyl-benzenesulfonate (1.4 g, 2.74 mmole) in methanol (40 mL) was was treated with 60 psi of hydrogen on a Parr shaker in the presence of 0.10 g 20% palladium hydroxide on carbon (Pearlman's catalyst) for 24 hours. The catalyst was removed by filtration and washed with methanol. The filtrate was evaporated in vacuum to give 0.94 g (93%) of the (R)-enantiomer of the title compound as a beige solid. 1H (DMSO) broad singlet 10.0 δ (2 H); doublet 7.8 δ (2 H); doublet 7.5 δ (2 H); doublet 6.9 δ (1H); doublet 6.8 δ (2 H); multiplet 4.0-4.6 δ (5 H); singlet 2.4 δ (3 H); singlet 2.1 δ (3 H).

reactant | [(2R)-8-Formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methyl-benzenesulfonate | 2.74 mmole, 1.4 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=O | C17H15NO8S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.10 g | [OH-].[OH-].[Pd+2]
product | [7-Amino-8-methyl-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)N)C | C17H19NO5S
